US07417169B2
A suspension of ethyl 4′-hydroxybiphenyl-4-carboxylate (1.63 g), (R)-(+)-2-(tert-butoxycarbonylamino)propyl methanesulfonate (1.93 g), and cesium carbonate (2.70 g) in N,N-dimethylformamide (18 mL) was stirred at 50° C. for 21 hrs. The reaction mixture was diluted with ethyl acetate, washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by aminopropyl silica gel flash column chromatography (eluent: n-hexane/ethyl acetate=1/1) to afford ethyl 4′-[(R)-2-(tert-butoxycarbonylamino)propyloxy]biphenyl-4-carboxylate (2.93 g).

reactant | ethyl 4′-hydroxybiphenyl-4-carboxylate | 1.63 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCC | C15H14O3
reactant | (R)-(+)-2-(tert-butoxycarbonylamino)propyl methanesulfonate | 1.93 g | CS(=O)(=O)OC[C@@H](C)NC(=O)OC(C)(C)C | C9H19NO5S
reactant | cesium carbonate | 2.70 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 18 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 4′-[(R)-2-(tert-butoxycarbonylamino)propyloxy]biphenyl-4-carboxylate | 2.93 g | C(C)(C)(C)OC(=O)N[C@@H](COC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C | C23H29NO5
